US08236976B2
Preparation of (S)-2-Methyl-3-cyclohexyl-propen-3-ol
Into a 20-mL scintal vial 46.5 mg (0.41 mmol) cyclohexanecarboxaldehyde was added dropwise (neat) and diluted with 1.5 mL toluene in a nitrogen atmosphere glovebox. A dry and thoroughly purged (N2) 10 mL Schlenk flask capped with a rubber septum was charged with 4.0 mg (0.017 mmol) (−)-MIB and a stir bar. In the glovebox, 65.5 mg (0.44 mmol) 3 was weighed into the Schlenk flask and the solids diluted with toluene (2 mL). 3.1 eq. (125 μL, 1.23 mmol) Et2Zn was then added neat. The flask was cooled to 0° C. and the aldehyde was added dropwise under an N2 purge. The reaction was stirred until judged complete by TLC and then quenched with saturated NH4Cl (6 mL). The clear biphasic layers were partitioned and the aqueous layer was repeatedly extracted with diethyl ether (3×25 mL). The combined organic layer was washed with brine, dried over MgSO4 and concentrated. The crude product was purified by column chromatography on silica (70:20:10, hexanes:CH2Cl2:EtOAc) to afford the title compound as a colorless oil in 90% yield (58 mg, 0.37 mmol). [α]D20=−16.7 (c=0.104, CHCl3, 92% ee). 1H NMR (C6D6, 500 MHz): δ.0.88-0.98 (m, 2H; methylene), 1.09-1.17 (m, 3H; methylene), 1.18 (br, 1H; OH), 1.35 (m, 1H; methylene), 1.46 (m, 1H; methylene), 1.58 (m, 1H; methylene), 1.59 (s, 3H; CH3), 1.64 (m, 1H; methylene), 1.71 (m, 1H; methylene), 2.01 (m, 1H; methylene), 3.54 (d, 4 Hz, 1H; RCHOH), 4.78 (s, 1H; alkene), 4.84 (s, 1H; alkene) ppm. 13C{1H} NMR (C6D6, 125 MHz): δ.17.88, 26.81, 26.98, 27.25, 29.02, 30.39, 41.25, 81.16, 112.26, 147.48 ppm. IR (neat): 3383 (OH), 2919, 2848, 1648, 1446, 1372, 1260, 1080, 1019 cm−1. LRMS-CI m/z 136.13 [(M−□□□)+; calcd for; C10H17: 136.13].

reactant | cyclohexanecarboxaldehyde | 0.41 mmol, 46.5 mg | C1(CCCCC1)C=O | C7H12O
reactant | Et2Zn | 1.23 mmol, 125 μL, 3.1 eq. | [Zn](CC)CC
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-Methyl-3-cyclohexyl-propen-3-ol | 90% yield | CC(=C)[C@@H](O)C1CCCCC1 | C10H18O
